US07834002B2
3-[6-(t-Butyldimethylsilanyloxymethyl)pyridin-2-yl]-propionic acid (1.65 g) was dissolved in 20 mL of methylene chloride, and 584 μL of morpholine, 1.6 g of WSC and 1.56 mL of triethylamine were added to the solution, and then the mixture was stirred at room temperature overnight. The reaction mixture was diluted with chloroform, transferred into a separating funnel, and washed with water. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (chloroform-methanol=30:1) to give 1.91 g of 3-[6-(t-butyldimethylsilanyloxymethyl)pyridin-2-yl]-1-morpholin-4-yl-propan-1-one as a yellow oil.

reactant | 3-[6-(t-Butyldimethylsilanyloxymethyl)pyridin-2-yl]-propionic acid | 1.65 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)CCC(=O)O | C15H25NO3Si
reactant | morpholine | 584 μL | N1CCOCC1 | C4H9NO
reactant | WSC | 1.6 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 1.56 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-[6-(t-butyldimethylsilanyloxymethyl)pyridin-2-yl]-1-morpholin-4-yl-propan-1-one | 1.91 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)CCC(=O)N1CCOCC1 | C19H32N2O3Si
